US04120963
5-(2-Hydroxy-3-tert.-butylaminopropoxy)-1-oxo-2-methyl-1,2-dihydro-β-carboline.
The above-obtained base is dissolved in about 50 ml. methanol and mixed with 0.8 ml. glacial acetic acid. After the addition of about 50 ml. diethyl ether, a precipitate is slowly formed. This is filtered off with suction and dried to give 2.6 g. 5(2-hydroxy-3-tert.-butylaminopropoxy)-1-oxo-2-methyl-1,2-dihydro-β-carboline acetate; m.p. 221°-223° C.

reactant | methanol | CO | CH4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 5(2-hydroxy-3-tert.-butylaminopropoxy)-1-oxo-2-methyl-1,2-dihydro-β-carboline acetate | C(C)(=O)O.OC(COC1=C2C=3C=CN(C(C3NC2=CC=C1)=O)C)CNC(C)(C)C
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-(2-Hydroxy-3-tert.-butylaminopropoxy)-1-oxo-2-methyl-1,2-dihydro-β-carboline | OC(COC1=C2C=3C=CN(C(C3NC2=CC=C1)=O)C)CNC(C)(C)C | C19H25N3O3
